US05690909
a) 10-(2-Hydroxy-2-trifluoromethyl-ethyl)-1,4,7-tris-carboxymethyl-1,4,7,10-tetraazacyclododecane
12.94 g (115.44 mmol) of (1,1,1-trifluoro-2,3-epoxypropane) and 10 g (28.86 mmol) of 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane are dissolved in a mixture of 50 ml of dioxane/80 ml of water, and the pH is brought to 10 with 6N potassium hydroxide solution. It is stirred for 24 hours at 70° C. with exclusion of pressure. It is evaporated to dryness, the residue is taken up with 300 ml of water/50 ml of methanol and extracted twice with 100 ml of tert-butyl methyl ether. The aqueous solution is adjusted to pH 1 with 5N hydrochloric acid and evaporated to dryness. The residue is boiled out (extracted) with 200 ml of methanol/80 ml of methylene chloride. It is cooled in an ice bath and precipitated potassium chloride is filtered out. The filtrate is concentrated by evaporation in a vacuum, the residue is dissolved in 45 ml of water/20 ml of ethanol and then put on a column of poly-(4-vinylpyridine). The product is eluted with a solution of ethanol/water 1:3. After concentration by evaporation in a vacuum, the residue is chromatographed on a reversed-phase column (RP 18/mobile solvent=gradient of water/tetrahydrofuran). After concentration by evaporation of the main fraction, 10.81 g (68% of theory) of a strongly hygroscopic, vitreous solid is obtained.

reactant | 1,1,1-trifluoro-2,3-epoxypropane | 115.44 mmol, 12.94 g | FC(C1CO1)(F)F | C3H3F3O
reactant | 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane | 28.86 mmol, 10 g | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | potassium hydroxide | 6N | [OH-].[K+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 10-(2-Hydroxy-2-trifluoromethyl-ethyl)-1,4,7-tris-carboxymethyl-1,4,7,10-tetraazacyclododecane | OC(CN1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O)C(F)(F)F | C17H29F3N4O7
